US05880139
Step A: 2,4-dihydroxy-N-methoxy-N-methyl-benzamide
To a cooled solution of 2,4-dihydroxybenzoic acid (8 g, 52 mmol), N,O-dimethylhydroxylamine hydrochloride (6.1 g, 62 mmol) and N-methylmorpholine (13.18 g, 130 mmol) in methylene chloride (50 mL) at 0° C. was added EDC batchwise (11.95 g, 62.3 mmol). Stirred at room temperature for 3 days. The reaction was quenched by the addition of water and then extracted with methylene chloride (2 times). The combined organic extracts were successively washed with a 10% aqueous citric acid solution, a 5% sodium bicarbonate solution, water and saturated salt solution and dried over anhydrous sodium sulfate. The mixture was filtered and the solvent removed by rotoevaporation. The residue was purified by flash column chromatography on silica gel eluted with 0-33% ethyl acetate in hexanes to yield the title compound, mass spectrum (CI) m/e=198 (M+1)+.

reactant | 2,4-dihydroxybenzoic acid | 52 mmol, 8 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | N,O-dimethylhydroxylamine hydrochloride | 62 mmol, 6.1 g | Cl.CNOC
reactant | N-methylmorpholine | 130 mmol, 13.18 g | CN1CCOCC1 | C5H11NO
reactant | EDC
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dihydroxy-N-methoxy-N-methyl-benzamide | OC1=C(C(=O)N(C)OC)C=CC(=C1)O | C9H11NO4
